US07253184B2
3-cyano, 4-oxo, 6-methoxy dihydroquinoline was reacted with phosphorus oxychloride in acetonitrile at 85° C. for 5 hr to give 3-cyano, 4-chloro, 6-methoxy quinoline 97% purity by HPLC

reactant | 6-methoxy dihydroquinoline | COC=1C=C2C=CCNC2=CC1 | C10H11NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-methoxy quinoline | 97% | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
